US04581168
3. Arg(NO2)-Ala-Arg(NO2)-Leu-NH2
From 515 g of H-Ala-Arg(NO2)-Leu-NH2 in 2.5 l of DMF and 333 g of Boc-Arg(NO2)-OH and 500 g of BOP, 607 g (85%) of a white solid monitored by TLC and NMR are obtained by employing the operational conditions described in Example I-1, after treatment with the mixture TFA-CH2Cl2.

reactant | H-Ala-Arg(NO2)-Leu-NH2 | 515 g | N[C@@H](C)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N[C@@H](CC(C)C)C(=O)N | C15H30N8O5
reactant | Boc-Arg(NO2)-OH | 333 g | N([C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)O)C(=O)OC(C)(C)C | C11H21N5O6
reactant | BOP | 500 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | TFA CH2Cl2 | C(=O)(C(F)(F)F)O.C(Cl)Cl
solvent | DMF | 2.5 l | CN(C)C=O | C3H7NO
product | Arg(NO2)-Ala-Arg(NO2)-Leu-NH2 | N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N[C@@H](CC(C)C)C(=O)N | C21H41N13O8
